US04797399
To an ice-cooled solution of a mixture of 6-chloro-1-carboxymethyl-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine (3.47 g) and N-hydroxysuccinimide (1.96 g) in N,N-dimethylformamide (20 ml) was gradually added N,N-dicyclohexylcarbodiimide (3.51 g). The mixture was stirred for 1 hour at ambient temperature and dicyclohexylurea that precipitated from the reaction mixture was removed by filtration. To a solution of piperazine (6.11 g) in N,N-dimethylformamide (80 ml) was added dropwise the filtrate for a period of 1.5 hours below 20° c. The final mixture was stirred for 4 hours at ambient temperature, and then filtered. The filtrate was concentrated under reduced pressure below 50° C. and the residue was dissolved in 2N hydrochloric acid. The aqueous solution was washed with chloroform and then adjusted to pH 9 with an aqueous solution of sodium hydrogen carbonate. The turbid solution was extracted with chloroform, and the extract was dried over magnesium sulfate and concentrated under reduced pressure to give a white powder of 6-choro-2-oxo-1-[(1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4 -b]pyridine (3.24 g).

reactant | 6-chloro-1-carboxymethyl-2-oxo-1,2-dihydrothiazolo[5,4-b]pyridine | 3.47 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)O)=O | C8H5ClN2O3S
reactant | N-hydroxysuccinimide | 1.96 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-choro-2-oxo-1-[(1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4 -b]pyridine | 3.24 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCNCC2)=O | C12H13ClN4O2S
